US04839155
A stirred solution of 1,4-diiodobenzene (4.21 g, 12.7 mmol) in dry tetrahydrofuran (20 ml) was cooled under nitrogen by a dry ice-acetone bath. n-Butyllithium (8.5 ml of a 1.55M solution in hexane, 12.7 mmol) was added. After 5 minutes, a solution of 1-[4-(2-dimethylaminoethoxy)phenyl]-2-phenyl-1-butanone (2.0 g, 6.4 mmol) was added and the mixture allowed to warm to room temperature. After 15 hours, the mixture was poured into water (60 ml) and extracted with ether (2×50 ml). The ether extracts were concentrated and the residual oil dissolved in ethanol (20 ml). Concentrated hydrochloric acid (10 ml) was added and the mixture heated under reflux for 4 hours, then cooled, and poured into water (100 ml). The solution was basified with aqueous sodium hydroxide (3M) and extracted with ether (100 ml). The ether extract was dried with sodium sulphate, concentrated, and the residue applied to a column of silica (Merck 15111, 80 g). Elution with 1:1 light petroleum (b.p. 40°-60° C.-ether containing an increasing proportion of triethylamine gave after a forerun of tamoxifen which was discarded, at 5% triethylamine, a mixture of 4-iodotamoxifen and its Z isomer:-

reactant | 1,4-diiodobenzene | 12.7 mmol, 4.21 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | n-Butyllithium | C(CCC)[Li]
reactant | 1-[4-(2-dimethylaminoethoxy)phenyl]-2-phenyl-1-butanone | 6.4 mmol, 2.0 g | CN(CCOC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O)C | C20H25NO2
reactant | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | tamoxifen | CC/C(=C(\C=1C=CC=CC1)/C=2C=CC(=CC2)OCCN(C)C)/C=3C=CC=CC3 | C26H29NO
